US06949550B2
Part F: Preparation of benzyl (1-{4-[1-(4-methoxyphenyl)-7-methylene-3-(trifluoromethyl)-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}-1H-imidazol-2-yl)methyl(methyl)carbamate
Benzyl 1H-imidazol-2-ylmethyl(methyl)carbamat (1.17 g, 4.76 mmol) from Part E, 1-[2-trifluoroacetamidomethyl-phenyl]-3-trifluoromethyl-6-[4-Iodo-2-fluorophenyl]-1,4,5,6-tetrahydropyrazolo-[3,4-c]-pyridin-7-one from Part D (1.63 g, 3.18 mmol), CuI (0.12 9, 20%), K2CO3 (0.66 g, 4.76 mmol), 1,10-phenanthroline (56 mg, 20%) were added together with 100 mL of DMSO. The mixture was degassed and then heated at 130° C. under N2 for 12 h. The mixture was cooled and aqueous NH4OH (200 mL of of 10% NH4OH) was added. The mixture was filtered through Celite® and washed with EtOAc. The two layers were separated and the aqueous layer was extracted with EtOAc. The combined EtOAc mixture was washed with brine, dried over MgSO4, concentrated, and chromatographed with EtOAc to give 1.34 g of the desired product (66.9%). MS (ES+): 631.3, (M+H)+.

reactant | Benzyl 1H-imidazol-2-ylmethyl(methyl)carbamat | 4.76 mmol, 1.17 g | N1C(=NC=C1)CN(C(OCC1=CC=CC=C1)=O)C | C13H15N3O2
reactant | 1-[2-trifluoroacetamidomethyl-phenyl]-3-trifluoromethyl-6-[4-Iodo-2-fluorophenyl]-1,4,5,6-tetrahydropyrazolo-[3,4-c]-pyridin-7-one | FC(C(=O)NCC1=C(C=CC=C1)N1N=C(C2=C1C(N(CC2)C2=C(C=C(C=C2)I)F)=O)C(F)(F)F)(F)F | C22H14F7IN4O2
reactant | K2CO3 | 4.76 mmol, 0.66 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,10-phenanthroline | 56 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI | [Cu]I
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | benzyl (1-{4-[1-(4-methoxyphenyl)-7-methylene-3-(trifluoromethyl)-1,4,5,7-tetrahydro-6H-pyrazolo[3,4-c]pyridin-6-yl]phenyl}-1H-imidazol-2-yl)methyl(methyl)carbamate | 1.34 g, 66.9% | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(=NC=C2)CN(C(OCC2=CC=CC=C2)=O)C)=C)C(F)(F)F | C34H31F3N6O3
